US07141575B2
A solution of 3-(tert-butoxycarbonyloxy)-4-nitrobenzoic acid (2.26 g, 8 mmol) and N-methylmorpholine (1.85 mL, 16.8 mmol) in THF (20 mL) at 0° C., was treated with isobutylchloroformate (1.09 mL, 8.4 mmol) and stirred for 1 h. The reaction mixture was added to a cooled (−78° C.) solution of NaBH4 (605 mg, 16 mmol) in MeOH (16 mL) and stirred at room temperature for 1 h. The reaction mixture was diluted with EtOAc (20 mL), washed with saturated NaHCO3 (10 mL) and 10% citric acid solution (10 mL), dried (MgSO4) and concentrated in vacuo to give tert-butyl (5-hydroxymethyl-2-nitrophenyl) carbonate (1.36 g, 86%) as a cream solid. This material was brominated directly using Method AB to give the title compound (961 mg, 58%) as a yellow oil: NMR δH (400 MHz, CDCl3) 8.09 (1H, d, J 8.4 Hz), 7.41 (1H, dd, J 8.4, 2.0 Hz), 7.34 (1H, d, J 2.0 Hz), 4.47 (2H, s) and 1.58 (9H, s).

reactant | 3-(tert-butoxycarbonyloxy)-4-nitrobenzoic acid | 8 mmol, 2.26 g | C(C)(C)(C)OC(=O)OC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C12H13NO7
reactant | N-methylmorpholine | 16.8 mmol, 1.85 mL | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 8.4 mmol, 1.09 mL | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | NaBH4 | 16 mmol, 605 mg | [BH4-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | MeOH | 16 mL | CO | CH4O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | tert-butyl (5-hydroxymethyl-2-nitrophenyl) carbonate | 1.36 g, 86% | C(OC(C)(C)C)(OC1=C(C=CC(=C1)CO)[N+](=O)[O-])=O | C12H15NO6
